US07351719B2
212) N-{3-chloro-4-[2-(4-methyl-piperidin-1-yl )-ethyl]-phenyl}-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide
Prepared analogously to Example 143 starting from (2-chloro-4-trifluoromethyl-phenoxy)-acetic acid (Z2b) and 3-chloro-4-[2-(4-methyl-piperidin-1-yl )-ethyl]-phenylamine (Z46c). The reaction mixture was poured onto ice water and the aqueous phase was extracted with EtOAc. The org. phase was dried over sodium sulphate and evaporated down i. vac. The residue was purified by column chromatography (Alox, neutral, act. II-III, gradient petroleum ether/EtOAc 3:1→1:1).

reactant | (2-chloro-4-trifluoromethyl-phenoxy)-acetic acid | ClC1=C(OCC(=O)O)C=CC(=C1)C(F)(F)F | C9H6ClF3O3
reactant | 3-chloro-4-[2-(4-methyl-piperidin-1-yl )-ethyl]-phenylamine | ClC=1C=C(C=CC1CCN1CCC(CC1)C)N | C14H21ClN2
product | N-{3-chloro-4-[2-(4-methyl-piperidin-1-yl )-ethyl]-phenyl}-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide | ClC=1C=C(C=CC1CCN1CCC(CC1)C)NC(COC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C23H25Cl2F3N2O2
